US04267176
Ethyl 2-(4-formamidopyrimidin-2-yl)-2-hydroxyiminoacetate (7.0 g.) was dissolved in dioxane (200 ml.) under heating and the resultant solution was cooled to ambient temperature in an ice bath, and then thereto was added a solution of diazomethane in diethyl ether with stirring until complete consumption of the starting materials. The reaction mixture was concentrated to give a brown oil, which was purified by column chromatography on silica gel (140 g.) using benzene as an developing solvent and a mixture of benzene and ethyl acetate (3:1) as an eluent to give a pale brown semisolid of ethyl 2-(4-formamidopyrimidin-2-yl)-2-methoxyiminoacetate (4.4 g.).

reactant | Ethyl 2-(4-formamidopyrimidin-2-yl)-2-hydroxyiminoacetate | 7.0 g | C(=O)NC1=NC(=NC=C1)C(C(=O)OCC)=NO | C9H10N4O4
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 2-(4-formamidopyrimidin-2-yl)-2-methoxyiminoacetate | 4.4 g | C(=O)NC1=NC(=NC=C1)C(C(=O)OCC)=NOC | C10H12N4O4
